* Auto-generated subcircuit
.SUBCKT MyVFmodel my0 Port1
Gc1_1 Port1 my0 Pole1 my0 1.000270e+08
Gc1_2 Port1 my0 Pole2 my0 -2.843336e+04
Gd1_1 Port1 my0 Port1 my0 1.000000e-06
R1 my0 Pole1 2.500747e-08
C1 my0 Pole1 1.000000e+00
R2 my0 Pole2 8.797141e-05
C2 my0 Pole2 1.000000e+00
Gb1_1 my0 Pole1 Port1 my0 1.000000e+00
Gb2_1 my0 Pole2 Port1 my0 1.000000e+00
.ENDS MyVFmodel
